US09085555B2
Methyl 1H-pyrrolo[2,3-b]pyridine-6-carboxylate
To a stirred solution of 1H-pyrrolo[2,3-b]pyridine-6-carboxylic acid [898746-35-5] (500 mg, 3.08 mmol) in MeOH was added a 2M solution of trimethylsilyldiazomethane in Et2O at 0° C., and the reaction mixture was stirred at RT for 30 min. The reaction mixture was concentrated in vacuo to give the title compound. MS (LC/MS): 177 [M+H]+, 375 [2M+H]+; tR (HPLC conditions k): 2.71

reactant | 1H-pyrrolo[2,3-b]pyridine-6-carboxylic acid | 3.08 mmol, 500 mg | N1C=CC=2C1=NC(=CC2)C(=O)O | C8H6N2O2
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | Methyl 1H-pyrrolo[2,3-b]pyridine-6-carboxylate | N1C=CC=2C1=NC(=CC2)C(=O)OC | C9H8N2O2
